US08563764B2
Reaction of 5-norbornene-2-carboxylic acid
and 25 ml of toluene were continuously added to the 250 ml flask. Zirconium acetyl acetonate [Zr(acac)4] (0.658 g, 0.135 mmol, 1 mol %) was added thereto, and azeotropic reflux was performed. The temperature of the heated bath was controlled to 150° C. and the reaction was performed for 18 hours. After that, the reaction was finished after the GC check, and it was cooled to normal temperature. Thereafter, 30 mlm of ethyl acetic acid was added thereto. After the undissolved solid compound is precipitated, 30 ml of 1 M (mol/L) dilute hydrochloric acid solution was added thereto, and the washing was performed. This process was performed twice, and 30 ml of the saturated aq.NaHCO3 solution was added thereto and washed. This process was performed twice, and MgSO4 was added to the separated organic solution to remove a small amount of water. After water was removed, this was filtered by using MgSO4, and the solvent was removed under reduced pressure. The purification process was carried out to obtain 4.15 g of the compound (molecular weight=342.15, yield 89%).

reactant | ethyl acetic acid | C(C)CC(=O)O | C4H8O2
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Zirconium acetyl acetonate | 0.135 mmol, 0.658 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Zr+4]
product | 5-norbornene-2-carboxylic acid | 4.15 g, yield 89% | C12C(CC(C=C1)C2)C(=O)O | C8H10O2
